US08420642B2
Preparation of [5-(4-methanesulfonyl-phenoxy)-pyridine-2-yl]-(1-methyl-1H-pyrazol-3-yl)-amine (“A27”)
2-Bromo-5-(4-methanesulfonyl-phenoxy)-pyridine (0.47 mmol), sodium-tert.-butylate (1.4 eq.), and 1-methyl-1H-pyrazole-3-amine (1.2 eq.) are dissolved in degassed dioxane (2.5 ml) and heated to 80° C. Chloro(di-2-norbornylphosphino)(2-dimethylaminoferrocene-1-yl)palladium (II) (5.9 mg) in degassed dioxane (1 ml) is added and the reaction mixture is heated for 1 hour at 142° C. in the microwave. The reaction is quenched with ethylacetate (30 ml) and filtrated over celite. The solvent of the filtrate is removed in vacuo [5-(4-Methanesulfonyl-phenoxy)-pyridine-2-yl]-(1-methyl-1H-pyrazole-3-yl)-amine (“A27”) is obtained after reversed phase column chromatography (water/acetonitrile+0.1% TFA) as orange powder in a yield of 55%; HPLC (method C): 1.57 min; LC-MS (method A): 0.787 min, 345.15 (M+H+);

reactant | 2-Bromo-5-(4-methanesulfonyl-phenoxy)-pyridine | 0.47 mmol | BrC1=NC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C12H10BrNO3S
reactant | 1-methyl-1H-pyrazole-3-amine | 1.2 eq. | CN1N=C(C=C1)N | C4H7N3
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Chloro(di-2-norbornylphosphino)(2-dimethylaminoferrocene-1-yl)palladium (II) | 5.9 mg | Cl[Pd-]([C-]1C(=CC=C1)N(C)C)P(C1C2CCC(C1)C2)C2C1CCC(C2)C1.[CH-]1C=CC=C1.[Fe+2]
product | [5-(4-methanesulfonyl-phenoxy)-pyridine-2-yl]-(1-methyl-1H-pyrazol-3-yl)-amine | yield of 55% | CS(=O)(=O)C1=CC=C(OC=2C=CC(=NC2)NC2=NN(C=C2)C)C=C1 | C16H16N4O3S
